US05198014
To a stirred solution of 1.6 grams (0.015 mole) of tert-butyl nitrite in 20 mL of ethyl acrylate and 20 mL of acetonitrile was added 1.2 grams (0.012 mole) of copper(II) chloride. Upon completion of addition, the reaction mixture was stirred for five minutes, and then 2.9 grams (0.01 mole) of 5-amino-4-cyano-1-(2,3,4-trichlorophenyl)-1H-pyrazole was added in portions. Upon completion of the addition, the reaction mixture was stirred for 2.75 hours at a temperature of about 27° C. After this time, the reaction mixture was poured into 150 mL of aqueous 20% hydrochloric acid, where it was stirred for 10 minutes. The two-phase mixture was extracted with methylene chloride. After the extract had been standing for a few minutes, an oily solid separated out. This solid was collected by filtration, and nmr analysis showed that it was not the proposed product. The methylene chloride filtrate was washed with aqueous 20% hydrochloric acid and then with water. The organic layer was dried with magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure, yielding 3.6 grams of crude, oily product. A 2.0 gram sample of the crude product was subjected to column chromatography on silica gel with 1:1 heptane/ethyl acetate eluent. Those fractions found by thin layer chromatography to contain a major constituent other than eluent and starting materials were combined and concentrated under reduced pressure, yielding 0.9 gram of ethyl 2-chloro-3-[4-cyano-1-(2,3,4-trichlorophenyl)-1H-pyrazol-5-yl]propionate. The nmr spectrum was consistent with the proposed structure.

reactant | tert-butyl nitrite | 0.015 mole, 1.6 grams | N(=O)OC(C)(C)C | C4H9NO2
reactant | 5-amino-4-cyano-1-(2,3,4-trichlorophenyl)-1H-pyrazole | 0.01 mole, 2.9 grams | NC1=C(C=NN1C1=C(C(=C(C=C1)Cl)Cl)Cl)C#N | C10H5Cl3N4
reactant | hydrochloric acid | Cl | ClH
reactant | heptane ethyl acetate | CCCCCCC.C(C)(=O)OCC
solvent | ethyl acrylate | 20 mL | C(C=C)(=O)OCC | C5H8O2
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
catalyst | copper(II) chloride | 0.012 mole, 1.2 grams | [Cu](Cl)Cl
product | ethyl 2-chloro-3-[4-cyano-1-(2,3,4-trichlorophenyl)-1H-pyrazol-5-yl]propionate | 0.9 gram | ClC(C(=O)OCC)CC1=C(C=NN1C1=C(C(=C(C=C1)Cl)Cl)Cl)C#N | C15H11Cl4N3O2
